US06583128B2
Synthesis of 4-(4-Carboxymethyl-phenylazo)-phenylacetic Acid
4-Aminophenylacetic acid (3.75 g, 24.8 mmol) was suspended in water (75 mL) and concentrated hydrochloric acid (8 mL) was added. The solution was cooled to 0° C. in an ice bath with rapid stirring. Sodium nitrite (1.80 g, 26.1 mmol) in water (20 mL) was added dropwise to the 4-aminophenylacetic acid solution with rapid stirring. Care was taken to keep the temperature between 0-5° C. at all times, especially during the NaNO2 addition. The reaction was stirred for an additional 20 min. In the meantime, phenylacetic acid (10.1 g, 74.4 mmol) was dissolved in an aqueous NaOH solution (4.50 g, 113 mmol NaOH in 100 mL H2O). The solution was vigorously stirred at 17° C. and at pH 13.3. The diazonium salt solution was added dropwise to the phenylacetic acid solution. It is of utmost importance to keep the temperature of the phenylacetic acid solution between 17-18° C. and the pH between 13.2-13.3 at all times, especially during the diazonium salt addition. The temperature was regulated by the addition of ice and the pH regulated by the addition of 8 M NaOH. After addition was complete, the solution was allowed to warm to room temperature and stirred for an additional 30 min. The reaction mixture was suction filtered to remove any undissolved particulates or unwanted side products. The filtrate was acidified with aqueous HCl (10 mL conc. HCl in 20 mL H2O) which produced a dark red precipitate. The precipitate was collected by suction filtration and washed several times with cold H2O, until the filtrate was clear. The collected solid was air dried overnight to give the desired compound as a red solid in 37% yield: IR (KBr) 3030 (br), 1696, 1658, 1452, 1414, 1201, 850, 675 cm−1 FABMS m/z 299 (M+H)+, 320 (M+Na); 1H NMR (DMSO-d6) δ 3.47 (s, 4H), 7.33 (4H, d, J=8.1 Hz), 7.84 (4H, d, J=8.4 Hz).

reactant | 4-Aminophenylacetic acid | 24.8 mmol, 3.75 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | hydrochloric acid | 8 mL | Cl | ClH
reactant | Sodium nitrite | 26.1 mmol, 1.80 g | N(=O)[O-].[Na+]
reactant | phenylacetic acid | 74.4 mmol, 10.1 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | NaOH | 113 mmol, 100 mL, 4.50 g | [OH-].[Na+]
reactant | NaOH | 8 M | [OH-].[Na+]
solvent | water | 75 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 4-(4-Carboxymethyl-phenylazo)-phenylacetic Acid | 37% yield | C(=O)(O)CC1=CC=C(C=C1)N=NC1=CC=C(C=C1)CC(=O)O | C16H14N2O4
